US07858621B2
To a suspension of 2-chloro-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide (400 mg, 1.489 mmol) and diethylamine (0.773 ml, 7.44 mmol) in DMF (4 ml) was added K2CO3 (1.02 g, 7.44 mmol). The mixture was stirred for 4 hours at 110° C. The reaction mixture was diluted with EtOAc (30 ml) and then washed two times with 1N-HCl (30 ml) and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue was chromatographed to yield the 2-diethylamino-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide (400 mg, 88%).

reactant | 2-chloro-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide | 1.489 mmol, 400 mg | ClC1=C(C(=O)N(C)OC)C=CC(=N1)C(F)(F)F | C9H8ClF3N2O2
reactant | diethylamine | 7.44 mmol, 0.773 ml | C(C)NCC | C4H11N
reactant | K2CO3 | 7.44 mmol, 1.02 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | 2-diethylamino-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide | 400 mg, 88% | C(C)N(C1=C(C(=O)N(C)OC)C=CC(=N1)C(F)(F)F)CC | C13H18F3N3O2
